US09023846B2
A solution of 6-bromo-2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3H-imidazo[4,5-c]pyridine (50 mg, 0.15 mmol, prepared as described in the previous step), 2-chlorophenylboronic acid (47 mg, 0.30 mmol), 2M Na2CO3 (0.60 mL, 1.2 mmol) and DME (1 mL) was stirred at 90° C. for 18 h. The resulting mixture was allowed to cool to room temperature and organic layer was separated. The organic layer was purified by direct application to silica preparative TLC plates (2000 micron) and eluted with 3:7 EtOAc-hexanes to yield 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine.

reactant | 6-bromo-2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3H-imidazo[4,5-c]pyridine | BrC1=CC2=C(C=N1)NC(=N2)C=2N(N=C(C2)C(C)(C)C)C | C14H16BrN5
reactant | 2-chlorophenylboronic acid | 0.30 mmol, 47 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 1.2 mmol, 2M, 0.60 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 1 mL | COCCOC | C4H10O2
product | 2-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-3H-imidazo[4,5-c]pyridine | C(C)(C)(C)C=1C=C(N(N1)C)C1=NC2=C(C=NC(=C2)C2=C(C=CC=C2)Cl)N1 | C20H20ClN5
